US03987047
2-[1,2,4,5-Tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]acetic acid dihydrochloride was prepared by hydrolysis of 2-[1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]acetic acid ethyl ester in 2 N hydrochloric acid at the boiling point.

reactant | 2-[1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]acetic acid ethyl ester | C(C)OC(CN1CCC2=NC=3C=CC=CC3C(=C2CC1)C)=O | C18H22N2O2
reactant | hydrochloric acid | 2 N | Cl | ClH
product | 2-[1,2,4,5-Tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]acetic acid dihydrochloride | Yield: 72% | Cl.Cl.CC1=C2C(=NC=3C=CC=CC13)CCN(CC2)CC(=O)O | InChI=1S/C16H18N2O2.2ClH/c1-11-12-4-2-3-5-14(12)17-15-7-9-18(10-16(19)20)8-6-13(11)15;;/h2-5H,6-10H2,1H3,(H,19,20);2*1H
